US05604227
7-Chloro-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline-1,4-dione choline salt
To a stirred suspension of 7-chloro-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline -1,4-dione (1.00 g, 3.8 mM) in water (40 mL) was added choline hydroxide (0.86 mL, 3.8 mM, 50 weight per cent, aqueous solution). Toluene (250 mL) was added to the resulting solution and the mixture was concentrated using a rotary evaporator. The residue was diluted with toluene (250 mL) and the resulting mixture concentrated again to provide a yellow residue. This residue was stirred for 60 hr with methanol (25 mL) and the resulting suspension was filtered to separate the solids which were washed with methanol (3 mL) and then dried under a stream of nitrogen for 1 hr. Further drying of the solids in vacuo at 100° C. for 20 hr provided (0.76 g, 55%) of the title compound as a yellow powder, mp 267°-269° C. Analysis for C11H5ClN3O3 ·C5H14NO Calculated: C, 52.4; H, 5.22; N, 15.30 Found: C, 52.2; H, 5.22; N, 15.03

reactant | 7-chloro-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline -1,4-dione | 3.8 mM, 1.00 g | ClC=1C=CC=2C(=C3C(=NC2C1)C(NNC3=O)=O)O | C11H6ClN3O3
reactant | choline hydroxide | 3.8 mM, 0.86 mL | [OH-].OCC[N+](C)(C)C
reactant | Toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | methanol | 25 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 7-Chloro-2,3-dihydro-10-hydroxypyridazino[4,5-b]quinoline-1,4-dione choline salt | 0.76 g, 55% | OCC[N+](C)(C)C.ClC=1C=CC=2C(=C3C(=NC2C1)C(NNC3=O)=O)O | InChI=1S/C11H6ClN3O3.C5H14NO/c12-4-1-2-5-6(3-4)13-8-7(9(5)16)10(17)14-15-11(8)18;1-6(2,3)4-5-7/h1-3H,(H,13,16)(H,14,17)(H,15,18);7H,4-5H2,1-3H3/q;+1
